### PR TITLE
Pauli matrices: vector identities and self-adjoint decomposition

### PR DESCRIPTION
**Pull request by TomOleDiem**
A few useful identities about Pauli matrices. I need them to prove
things about qubits later on.

- The matrix `a · σ` built from a real 3-vector `a`, together with its
  anticommutator and commutator against another such matrix `b · σ`
  (in terms of the dot and cross product of `a` and `b`), and the
  resulting product formula `(a · σ)(b · σ) = (a · b) I + i (a × b) · σ`.
- The scalar/vector decomposition of a self-adjoint 2×2 matrix into its
  Pauli components, along with the radius of the vector part and the
  identity that its square is that radius squared times the identity.

### CODE REVIEW

**Comment by TomOleDiem** [comment]
awaiting-author

File: Physlib/Relativity/PauliMatrices/Basic.lean [hunk 1]
```diff
@@ -221,4 +221,99 @@ lemma σ3_σ2_commutator : σ3 * σ2 - σ2 * σ3 = -(2 * I) • σ1 := by
   simp only [true_and]
   exact List.ofFn_inj.mp rfl
 
+/-- The matrix `a · σ` associated to a real three-vector `a`. -/
+noncomputable def vectorMatrix (a : Fin 3 → ℝ) :
+    Matrix (Fin 2) (Fin 2) ℂ :=
+  ∑ i : Fin 3, (a i : ℂ) • pauliMatrix (Sum.inr i)
+
+/-- Pauli matrices satisfy `{σᵢ, σⱼ} = 2 δᵢⱼ I`. -/
+lemma pauliMatrix_anticommutator (i j : Fin 3) :
```
Comment (jstoobysmith) [inline Physlib/Relativity/PauliMatrices/Basic.lean:225]: Could be moved up before `vectorMatrix`

File: Physlib/Relativity/PauliMatrices/Basic.lean [hunk 2]
```diff
@@ -221,4 +221,99 @@ lemma σ3_σ2_commutator : σ3 * σ2 - σ2 * σ3 = -(2 * I) • σ1 := by
...
+        ((a 1 : ℂ) * b 1) •
+            (σ2 * σ2 + σ2 * σ2) +
+        ((a 2 : ℂ) * b 2) •
+            (σ3 * σ3 + σ3 * σ3) +
+        ((a 0 : ℂ) * b 1 + (a 1 : ℂ) * b 0) •
+            (σ1 * σ2 + σ2 * σ1) +
+        ((a 0 : ℂ) * b 2 + (a 2 : ℂ) * b 0) •
+            (σ1 * σ3 + σ3 * σ1) +
+        ((a 1 : ℂ) * b 2 + (a 2 : ℂ) * b 1) •
+            (σ2 * σ3 + σ3 * σ2) := by
```
Comment (jstoobysmith) [inline Physlib/Relativity/PauliMatrices/Basic.lean]: Can we collapse these lines a bit, so they take up less space?

File: Physlib/Relativity/PauliMatrices/Basic.lean [hunk 3]
```diff
@@ -221,4 +221,99 @@ lemma σ3_σ2_commutator : σ3 * σ2 - σ2 * σ3 = -(2 * I) • σ1 := by
...
+      vectorMatrix a * vectorMatrix b - vectorMatrix b * vectorMatrix a =
+        (((a 0 : ℂ) * b 1 - (a 1 : ℂ) * b 0) •
+            (σ1 * σ2 - σ2 * σ1) +
+         ((a 0 : ℂ) * b 2 - (a 2 : ℂ) * b 0) •
+            (σ1 * σ3 - σ3 * σ1) +
+         ((a 1 : ℂ) * b 2 - (a 2 : ℂ) * b 1) •
+            (σ2 * σ3 - σ3 * σ2)) := by
+    simp only [vectorMatrix, Fin.sum_univ_three]
+    simp only [add_mul, mul_add, Algebra.smul_mul_assoc,
+      Algebra.mul_smul_comm]
```
Comment (jstoobysmith) [inline Physlib/Relativity/PauliMatrices/Basic.lean]: Can we combine these simp only's?

File: Physlib/Relativity/PauliMatrices/Basic.lean [hunk 4]
```diff
@@ -221,4 +221,99 @@ lemma σ3_σ2_commutator : σ3 * σ2 - σ2 * σ3 = -(2 * I) • σ1 := by
...
+    module
+  rw [h]
+  rw [σ1_σ2_commutator, σ1_σ3_commutator, σ2_σ3_commutator]
+  simp only [vectorMatrix, Fin.sum_univ_three, cross_apply]
+  simp only [Fin.isValue, neg_smul, smul_neg, Nat.succ_eq_add_one, Nat.reduceAdd,
+    cons_val_zero, ofReal_sub, ofReal_mul, cons_val_one, cons_val, smul_add]
```
Comment (jstoobysmith) [inline Physlib/Relativity/PauliMatrices/Basic.lean]: Same here with combing `simp only`

File: Physlib/Relativity/PauliMatrices/Basic.lean [hunk 5]
```diff
@@ -221,4 +221,99 @@ lemma σ3_σ2_commutator : σ3 * σ2 - σ2 * σ3 = -(2 * I) • σ1 := by
...
+    vectorMatrix a * vectorMatrix b =
+      ((a ⬝ᵥ b : ℝ) : ℂ) •
+          (1 : Matrix (Fin 2) (Fin 2) ℂ) +
+        Complex.I • vectorMatrix (a ⨯₃ b) := by
+  have hcomm := vectorMatrix_commutator a b
+  have hanti := vectorMatrix_anticommutator a b
+  refine smul_right_injective _ (two_ne_zero (α := ℂ)) ?_
+  simp only
+  have h2 :
+      (2 : ℂ) • (vectorMatrix a * vectorMatrix b) =
```
Comment (jstoobysmith) [inline Physlib/Relativity/PauliMatrices/Basic.lean]: Not sure need new line here?

File: Physlib/Relativity/PauliMatrices/SelfAdjoint.lean [hunk 6]
```diff
@@ -91,54 +94,184 @@ lemma pauliSelfAdjoint_linearly_independent : LinearIndependent ℝ pauliSelfAdj
...
 /-- The basis of `selfAdjoint (Matrix (Fin 2) (Fin 2) ℂ)` formed by Pauli matrices. -/
-def pauliBasis : Basis (Fin 1 ⊕ Fin 3) ℝ (selfAdjoint (Matrix (Fin 2) (Fin 2) ℂ)) :=
+def pauliBasis :
+    Basis (Fin 1 ⊕ Fin 3) ℝ (selfAdjoint (Matrix (Fin 2) (Fin 2) ℂ)) :=
   Basis.mk pauliSelfAdjoint_linearly_independent pauliSelfAdjoint_span
 
+/-! ### Pauli coordinates of self-adjoint `2 × 2` matrices -/
+
+/-- The coefficient of the identity in the Pauli decomposition. -/
+noncomputable def scalarPart
```
Comment (jstoobysmith) [inline Physlib/Relativity/PauliMatrices/SelfAdjoint.lean]: `scalarCoeff`?

File: Physlib/Relativity/PauliMatrices/SelfAdjoint.lean [hunk 7]
```diff
@@ -91,54 +94,184 @@ lemma pauliSelfAdjoint_linearly_independent : LinearIndependent ℝ pauliSelfAdj
...
+  have hdot : a ⬝ᵥ a = ∑ i : Fin 3, a i ^ 2 := by simp [dotProduct, pow_two]
+  rw [vectorMatrix_mul_vectorMatrix, hcross, hdot]
+  simp only [vectorMatrix, Pi.zero_apply, Complex.ofReal_zero, zero_smul, Finset.sum_const_zero,
+    smul_zero, add_zero]
+  push_cast
+  module
+
+/-- The Pauli radius is the square root of the squared Euclidean length of the
+spatial Pauli coefficients. -/
+lemma pauliRadius_sq
```
Comment (jstoobysmith) [inline Physlib/Relativity/PauliMatrices/SelfAdjoint.lean]: Move up near definition of `pauliRadius`

File: Physlib/Relativity/PauliMatrices/SelfAdjoint.lean [hunk 8]
```diff
@@ -91,54 +94,184 @@ lemma pauliSelfAdjoint_linearly_independent : LinearIndependent ℝ pauliSelfAdj
...
+lemma trace_vectorPart
+    (A : selfAdjoint (Matrix (Fin 2) (Fin 2) ℂ)) :
+    Matrix.trace (vectorPart A) = 0 := by
+  have h := congrArg Matrix.trace (matrix_eq_scalar_add_vector A)
+  simp only [trace_add, trace_smul, smul_eq_mul, Matrix.trace_one, Fintype.card_fin,
+    Nat.cast_ofNat, trace_eq_two_mul_scalarPart A] at h
+  linear_combination -h
+
+/-- The square of `a · σ` is `|a|² I`. -/
+lemma vectorMatrix_sq (a : Fin 3 → ℝ) :
```
Comment (jstoobysmith) [inline Physlib/Relativity/PauliMatrices/SelfAdjoint.lean]: Move to `vectorMatrix` definition

File: Physlib/Relativity/PauliMatrices/SelfAdjoint.lean [hunk 9]
```diff
@@ -91,54 +94,184 @@ lemma pauliSelfAdjoint_linearly_independent : LinearIndependent ℝ pauliSelfAdj
...
+/-- The square of the vector part of a self-adjoint matrix is its squared
+Pauli radius times the identity. -/
+lemma vectorPart_sq
+    (A : selfAdjoint (Matrix (Fin 2) (Fin 2) ℂ)) :
+    vectorPart A * vectorPart A =
+      (pauliRadius A ^ 2 : ℝ) • 1 := by
+  rw [vectorPart, vectorMatrix_sq, ← pauliRadius_sq]
+
+@[simp]
+lemma pauliRadius_nonneg
```
Comment (jstoobysmith) [inline Physlib/Relativity/PauliMatrices/SelfAdjoint.lean]: Move to `pauliRadius` definition

**Comment by jstoobysmith** [comment]
awaiting-author

**Comment by TomOleDiem** [comment]
Implementation of review comments.

-awaiting-author

**Review by jstoobysmith — APPROVED** [review]
Looks good to me! Many thanks - approved. Will merge shortly.
